US04816578
Preparation of (6RS,7SR)-7-[(SR)-1-(tert-Butyldimethylsilyl)-1-hydroxyethyl]-2,2-dimethyl-1-azabicyclo[4.2.0]octan-8-one
A solution of (6RS)-2,2-dimethyl-1-azabicyclo[4.2.0]octan-8-one (104 mg, 0.671 mmol) in 1 ml of tetrahydrofuran is added to a solution of lithium diisopropylamide (0.705 mmol made from 99 μl of diisopropylamine and 320 ml of a 2.2M solution of n-butyllithium in n-hexane) in 4 ml of tetrahydrofuran at -78° C. The enolate solution is aged for a period of 12 minutes and then methyl tert-butyldimethylsilyl ketone is added and stirring is continued for a period of 19 minutes. The reaction mixture is poured into a separatory funnel containing 5 ml of a saturated aqueous solution of ammonium chloride and shaken. The mixture is extracted with 10 ml of diethyl ether and the ether solution is dried over magnesium sulfate. Removal of the solvents in vacuo gives 206 mg of a colorless oil. Plate-layer chromatography of this material on silica gel (1:1 ethyl acetate/cyclohexane) provides 171 mg (81%) of (6RS,7SR)-7-[(SR)-1-(tert-butyldimethylsilyl)-1-hydroxyethyl]-2,2-dimethyl-1-azabicycylo[4.2.0]octan-8-one (Rf 0.41-0.65): m.p. 60°-3° C. (recrystallized from pentane); ir (CH2Cl2) cm-1 3608 (br), 1739; nmr (CDCl3) δ0.03 (s, 3), 0.06 (s, 3), 1.00 (s, 9), 1.34 (s, 3), 1.42 (s, 3), 1.76 (s, 3), 1.85 (m, 2), 3.24 (d, 1, J=1.9 Hz), 3.40 (ddd, 1, J=1.9, 4.9 and 10.6 Hz), 3.88 (m, 2); ms m/e 314 (M+1)+, 298, 198; anal. (C16H31NO3Si)C, H, N.

reactant | (6RS)-2,2-dimethyl-1-azabicyclo[4.2.0]octan-8-one | 0.671 mmol, 104 mg | CC1(N2C(CC2CCC1)=O)C | C9H15NO
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 99 μl | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | methyl tert-butyldimethylsilyl ketone | [Si](C)(C)(C(C)(C)C)C(=O)C | C8H18OSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | (6RS,7SR)-7-[(SR)-1-(tert-Butyldimethylsilyl)-1-hydroxyethyl]-2,2-dimethyl-1-azabicyclo[4.2.0]octan-8-one | 206 mg | [Si](C)(C)(C(C)(C)C)C(C)(O)C1C2CCCC(N2C1=O)(C)C | C17H33NO2Si
